US05677324
4-Bromo-2-propanoylphenol
Aluminium chloride (3.747 kg) was added to dichloromethane (7.0 l) at room temperature and propionyl chloride (1.297 kg) was then added over a 10 minute period. The mixture was stirred for 45 minutes and then a solution of 4-bromoanisole (1.312 kg) in dichloromethane (0.87 l) was added over a 15 minute period. The mixture was heated under reflux for 6.5 hours and then kept overnight at room temperature. The ice-cooled reaction mixture was quenched by the slow addition of ice (15 kg) over 1.5 hours. The mixture obtained was stirred for 15 minutes, the layers were separated and the aqueous layer extracted with dichloromethane (2×1.0 l). The organic layers were combined and washed with water (2×2.0 l), then two-thirds of the solvent removed by distillation at atmospheric pressure. Methanol (5.63 l) was then added slowly and the distillation continued until a pot temperature of 64° C. and a head temperature of 62° C. was achieved. Water (0.4 l) was added slowly and the mixture was cooled resulting in the precipitation of an off-white solid. Further water (0.4 l) was then added slowly and the precipitated solid granulated at about 10° C. for 2 hours. The solid was then filtered off, washed sparingly with a 6:1 methanol/water mixture and dried under reduced pressure at 50° C. to provide the title compound (1.464 kg).

reactant | Aluminium chloride | 3.747 kg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 1.297 kg | C(CC)(=O)Cl | C3H5ClO
reactant | 4-bromoanisole | 1.312 kg | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | water | 0.4 l | O | H2O
solvent | dichloromethane | 0.87 l | ClCCl | CH2Cl2
solvent | dichloromethane | 7.0 l | ClCCl | CH2Cl2
product | 4-Bromo-2-propanoylphenol | 1.464 kg | BrC1=CC(=C(C=C1)O)C(CC)=O | C9H9BrO2
